US09447091B2
a) N-(3-nitro-5-(1H-1,2,4-triazol-1-yl)phenyl)acetamide
To a solution of N-(3-bromo-5-nitrophenyl)acetamide (5 g, 19.3 mmol) in DMF (50 ml) were added 1,2,4-triazole (3.3 g, 48.25 mmol, 2.5 eq.), copper(I) oxide (0.56 g, 3.86 mmol, 0.2 eq.) and cesium carbonate (12.5 g, 38.6 mmol, 2 eq.) and the mixture was heated at 90° C. for 48 h. The mixture was quenched and extracted as in Example 1(d). The solvent was distilled off and the residue was purified by column chromatography (60-120 silica gel, 30% ethyl acetate in hexane) to give the product in 86% yield (4.1 g). LC-MS (ESI): Calculated mass: 247.21; Observed mass: 248.0 [M+H]+ (rt: 0.257 min).

reactant | N-(3-bromo-5-nitrophenyl)acetamide | 19.3 mmol, 5 g | BrC=1C=C(C=C(C1)[N+](=O)[O-])NC(C)=O | C8H7BrN2O3
reactant | 1,2,4-triazole | 48.25 mmol, 3.3 g, 2.5 eq. | N1N=CN=C1 | C2H3N3
reactant | cesium carbonate | 38.6 mmol, 12.5 g, 2 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
catalyst | copper(I) oxide | 3.86 mmol, 0.56 g, 0.2 eq. | [Cu-]=O
product | N-(3-nitro-5-(1H-1,2,4-triazol-1-yl)phenyl)acetamide | 86% yield | [N+](=O)([O-])C=1C=C(C=C(C1)N1N=CN=C1)NC(C)=O | C10H9N5O3
